US09193689B2
(2-Hydroxy-ethyl)-methyl-carbamic acid tert-butyl ester (400 mg, 2.28 mmol), TBDPS chloride (593 μL, 2.28 mmol) and imidazole (342 mg, 5.02 mmol) in DMF (2 mL) were stirred at RT for 12 h. The reaction mixture was diluted with brine and extracted with CH2Cl2. The combined organics were passed through a phase separation cartridge and concentrated in vacuo. The crude material was purified by silica gel column chromatography, eluting with isohexane and increasing the polarity to 50% EtOAc/isohexane to obtain [2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-methyl-carbamic acid tert-butyl ester as a colourless oil (572 mg, 61%).

reactant | (2-Hydroxy-ethyl)-methyl-carbamic acid tert-butyl ester | 2.28 mmol, 400 mg | C(C)(C)(C)OC(N(C)CCO)=O | C8H17NO3
reactant | TBDPS chloride | 2.28 mmol, 593 μL | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 5.02 mmol, 342 mg | N1C=NC=C1 | C3H4N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | [2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-methyl-carbamic acid tert-butyl ester | 572 mg, 61% | C(C)(C)(C)OC(N(C)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C24H35NO3Si
